US08372845B2
Step 1: 3-(3-Chloro-4-hydroxy-phenyl)-propionic acid benzyl ester
A solution of 3-(4-hydroxy-phenyl)-propionic acid benzyl ester (13.36 g, 52.1 mmol) in MeCN (100 ml) was cooled to 0° C. Trichloroisocyanuric acid (4.00 g, 17.2 mmol) was added, and the resulting white suspension was gradually allowed to warm to RT and stirred overnight. The reaction mixture was diluted with water (200 ml) and the product was extracted into EtOAc (250 ml) and dried (MgSO4). Purification by chromatography on silica eluting with 0-20% EtOAc in iso-hexane afforded the title product; 1H NMR (400 MHz, DMSO-d6) δ 9.90 (1H, s), 7.32 (3H, m), 7.29 (2H, d), 7.18 (1H, d), 6.97 (1H, dd), 6.85 (1H, d), 5.07 (2H, s), 2.76 (2H, t), 2.64 (2H, t). LC-MS Rt 1.46 mins; 313.2 [M+H]+, Method 2minLC_v002.

reactant | 3-(4-hydroxy-phenyl)-propionic acid benzyl ester | 52.1 mmol, 13.36 g | C(C1=CC=CC=C1)OC(CCC1=CC=C(C=C1)O)=O | C16H16O3
reactant | Trichloroisocyanuric acid | 17.2 mmol, 4.00 g | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
solvent | MeCN | 100 ml | CC#N | C2H3N
solvent | water | 200 ml | O | H2O
product | 3-(3-Chloro-4-hydroxy-phenyl)-propionic acid benzyl ester | C(C1=CC=CC=C1)OC(CCC1=CC(=C(C=C1)O)Cl)=O | C16H15ClO3
